US05300506
To a solution of 5.02 g (18.9 mmol, 1.0 equiv.) of 4-hydrazinyl-N,N-dimethyl-benzenemethanesulfonamide in 20 mL of water and 20 mL of ethanol was added sufficient sodium acetate to raise the pH to four. To the resulting slurry was added 1.90 mL (20.8 mmol, 1.1 equiv.) of 3,4-dihydro-2H-pyran. The reaction was stirred for sixteen hours then diluted with 200 mL of ethyl acetate. The organic layer was washed with 10% aqueous potassium carbonate, dried over anhydrous sodium sulfate and concentrated in vacuo to yield an oil. Chromatography on silica gel using 5% methanol in methylene chloride containing 0.5% concentrated aqueous ammonium hydroxide yielded 1.67 g (28%) of pure 4-[2-(5-hydroxypentylidene)hydrazinyl]N,N-dimethylbenzenemethanesulfonamide as an oil.

reactant | 4-hydrazinyl-N,N-dimethyl-benzenemethanesulfonamide | 18.9 mmol, 5.02 g, 1.0 equiv. | N(N)C1=CC=C(C=C1)CS(=O)(=O)N(C)C | C9H15N3O2S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 3,4-dihydro-2H-pyran | 20.8 mmol, 1.90 mL, 1.1 equiv. | O1CCCC=C1 | C5H8O
solvent | water | 20 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[2-(5-hydroxypentylidene)hydrazinyl]N,N-dimethylbenzenemethanesulfonamide | 1.67 g, 28% | OCCCCC=NNC1=CC=C(C=C1)CS(=O)(=O)N(C)C | C14H23N3O3S
